### ISSUE TITLE
False `example` in SpherePacking/MagicFunction/PolyFourierCoeffBound.lean

### ISSUE THREAD

**Issue by lawrence-harmonic** [thefundamentaltheor3m/Sphere-Packing-Lean#223]
This example is false (though it's a `Scratch` section so I'm not sure if it should be in the repository):

https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/blob/918f9a284443e2babe315d45357d052475297664/SpherePacking/MagicFunction/PolyFourierCoeffBound.lean#L640-L646

Counterexample found by @Aristotle-Harmonic:

```lean
theorem problem {m n : ℕ} {f : (EuclideanSpace ℝ (Fin m)) × (EuclideanSpace ℝ (Fin n)) → ℝ}
  (h₁ : ∀ x : EuclideanSpace ℝ (Fin m), Integrable (fun y : EuclideanSpace ℝ (Fin n) ↦ f (x, y)))
  (h₂ : Integrable (fun y : EuclideanSpace ℝ (Fin n) ↦
    ∫ x : EuclideanSpace ℝ (Fin m), f (x, y) ∂volume) volume) :
    Integrable f (volume.prod volume) := by

  sorry

example : False := by
  have := @problem
  contrapose! this
  refine' ⟨ 1, 0, fun _ => 1, _, _, _ ⟩ <;> norm_num;
  erw [ MeasureTheory.integrable_const_iff ] ; norm_num;
  exact fun h => by have := h.measure_univ_lt_top; norm_num at this;
```

Maybe needs some `NeZero`?
